US06018056
Preparation of 2,3-Dihydro-6-Methoxy -2-(4-Methoxyphenyl)-N-Methoxy-N-Methylbenzo[b]thiophene-3-Carboxamide
To a mixture of 2,3-dihydro-6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene-3-carboxylic acid (349.4 mg, 1.105 mmol) and methylene chloride (4 ml) is added thionyl chloride (195.7 mg, 1.645 mmol) and a catalytic amount of N, N-dimethylformamide. The contents are heated to reflux for 1 hour, then cooled and concentrated to a residue. This is then subjected to three cycles of dissolution in toluene and reconcentration, and the resulting residue taken up in methylene chloride (4 ml). To this solution is added N, O-dimethylhydroxylamine hydrochloride (118.9 mg, 1.22 mmol) and the resulting suspension cooled to 5° C. Pyridine (215 mg, 2.71 mmol) is then added via syringe. The reaction is allowed to warm to room temperature and is stirred for 16 hours. The contents are then partitioned between methylene chloride and water, and the layers separated. The organic layer is washed sequentially with 1 N hydrochloric acid, saturated aqueous sodium bicarbonate, and water, then dried over magnesium sulfate, filtered and concentrated to an oil. The oil is then chromatographed on silica gel (6:4 hexanes:ethylacetate) to afford 262.5 mg (66.1%) of title compound. IR (KBr) 2960, 2905, 1660, 1511, 1479, 1246, 1178, 1059 cm-1 ; 1H NMR (CDCl3): δ7.46 (d, 2 H, J=8.1 Hz), 6.85 (m, 3 H), 6.74 (s, 1 H), 6.57 (d, 1 H, J=8.1 Hz), 5.54 (d, 1 H, J=10.5 Hz), 4.82 (d, 1 H, J=10.5), 3.77 (s, 3 H), 3.75 (s, 3 H), 3.42 (s, 3 H), 3.23 (s, 3 H); 13C NMR (CDCl3): d 172.0, 160.2, 159.5, 143.1, 131.1, 130.2, 129.2, 124.9, 114.1, 110.9, 107.6, 61.7, 57.8, 57.3, 55.5, 55.3, 32.6. Anal. Calcd. for C19H21NO4S: C, 63.49; H, 5.89, N, 3.90; S, 8.92. Found: C, 63.48; H, 5.90; N, 3.81; S, 8.64.

reactant | 2,3-dihydro-6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene-3-carboxylic acid | 1.105 mmol, 349.4 mg | COC=1C=CC2=C(SC(C2C(=O)O)C2=CC=C(C=C2)OC)C1 | C17H16O4S
reactant | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
reactant | thionyl chloride | 1.645 mmol, 195.7 mg | S(=O)(Cl)Cl | Cl2OS
reactant | Pyridine | 2.71 mmol, 215 mg | N1=CC=CC=C1 | C5H5N
reactant | N, N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2,3-Dihydro-6-Methoxy -2-(4-Methoxyphenyl)-N-Methoxy-N-Methylbenzo[b]thiophene-3-Carboxamide | 262.5 mg, 66.1% | COC=1C=CC2=C(SC(C2C(=O)N(C)OC)C2=CC=C(C=C2)OC)C1 | C19H21NO4S
